2195-03-11 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - s/p pheresis, need to place pheresis line today for additional rounds
   (size 11.5)
   - HD line/triple lumen needs to be placed.
   - s/p rasburicase
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-11**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 62 (62 - 86) bpm
   BP: 164/81(98) {154/69(92) - 176/87(107)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                     63 mL
                                                                  1,169 mL
   PO:
             TF:
   IVF:
                                                                     63 mL
                                                                  1,169 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    510 mL
   Urine:
                                                                    220 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -158 mL
                                                                    659 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   33 K/uL
   9.1 g/dL
   178 mg/dL
   7.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   53 mg/dL
   100 mEq/L
   141 mEq/L
   24.7 %
   134.0 K/uL
        [image002.jpg]
                             [**2195-3-10**]  08:15 PM
                             [**2195-3-10**]  10:45 PM
                             [**2195-3-11**]  12:44 AM
                             [**2195-3-11**]  02:25 AM
                             [**2195-3-11**]  04:00 AM
   WBC
   302.5
   211.3
   128.9
   134.0
   Hct
   27.1
   24.9
   24.7
   24.7
   Plt
   54
   49
   37
   33
   Cr
   7.5
   7.3
   TropT
   0.02
   Glucose
   135
   178
   Other labs: PT / PTT / INR:18.1/33.0/1.6, CK / CKMB /
   Troponin-T://0.02, Alk Phos / T Bili:/0.4, Fibrinogen:342 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:1000 IU/L, Ca++:11.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
   78 year old male who presents with acute blast crisis.
   .
   # Leukocytosis:  Given the description of the smear, likely AML.
   Clinical picture c/w leukostasis and possibly spontaneous tumor lysis
   causing dyspnea, ARF and significant electrolyte abnormalities. Acute
   renal faiure, lung opacities, and mild confusion may all be reflective
   of leukostasis.
   - pharesis team at the bedside for emergent leukapheresis for his
   leukostasis.
   - given limitations of patient mobility on pheresis, oncology will bone
   marrow biopsy for diagnosis, with a potential for chemotherapy based
   off cytogenetics.
   - hydroxyurea written by oncology
   - will follow q6h tumor lysis labs
   - rasburicase ordered for elevated uric acid
   - will check vbg and follow serum pH, giving NaHCO3 in IVF.
   .
   # Acute Renal Failure:  No acute indication for emergent dialsys.
   Acute aniuric renal failure likely due to uric acid deposition vs
   tubular damage from tumor lysis.  Ca and Phos electrolyte deraments
   likely more secondary to TL than renal failure.  No evidence of
   significant volume overload and no critical uremia.
   - continue to trend vbg pH
   - renal aware and will see patient in morning, likely for initiation of
   HD.  Will follow labs and volume status for any indication for need of
   emergent dialysis
   - rasburicase and HCO3 in IVF
   .
   # Hypercalcemia:
   - fluids
   - lasix if euvolemic
   .
   #) Metabolic Acidosis:  Patient with an anion-gap acidis, likely
   secondary to UA and BUN.  Will check VBG pH and give bicarb in IVF and
   treated hyperuricemia.
   - holding off on allopurinol
   .
   #) Atrial Fib:  Likely chronic AF.  Hold asa in the pressence of
   thrombocytopenia.  Digoxin level normal in the setting of ARF.
   - hold off metoprolol
   - holding dig
   - holding aspirin
   .
   # HTN)  Not well controlled here.  Unclear if this poorly controlled at
   baseline, although seems unlikely.
   - hold ace in setting of ARF
   - consider head CT to r/o intracranial pathology.
   #)  Access:  has 3 [**Last Name (LF) 1403**], [**First Name3 (LF) 124**] place CVL afer pheresis.
   .
   #) Disposition: Stabilize in [**Hospital Unit Name 4**].
   .
   FEN: IVF, replete electrolytes (including phos), NPO
   .
   Prophylaxis: SCDs
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-10**] 10:00 PM
   20 Gauge - [**2195-3-10**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-03-11 09:21:00 Physician Attending Progress Note
Chief Complaint: Leukemia, blast crisis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received plasmaphoresis last PM, tolerated well.
   Bone marrow biopsy performed this AM.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-3-11**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 64 (58 - 86) bpm
   BP: 146/58(74) {146/58(74) - 176/87(107)} mmHg
   RR: 16 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                     63 mL
                                                                  1,474 mL
   PO:
             TF:
   IVF:
                                                                     63 mL
                                                                  1,474 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    665 mL
   Urine:
                                                                    220 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -158 mL
                                                                    809 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   33 K/uL
   178 mg/dL
   7.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   53 mg/dL
   100 mEq/L
   141 mEq/L
   24.7 %
   134.0 K/uL
        [image002.jpg]
                             [**2195-3-10**]  08:15 PM
                             [**2195-3-10**]  10:45 PM
                             [**2195-3-11**]  12:44 AM
                             [**2195-3-11**]  02:25 AM
                             [**2195-3-11**]  04:00 AM
   WBC
   302.5
   211.3
   128.9
   134.0
   Hct
   27.1
   24.9
   24.7
   24.7
   Plt
   54
   49
   37
   33
   Cr
   7.5
   7.3
   TropT
   0.02
   Glucose
   135
   178
   Other labs: PT / PTT / INR:18.1/33.0/1.6, CK / CKMB /
   Troponin-T://0.02, Alk Phos / T Bili:/0.4, Fibrinogen:342 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:1000 IU/L, Ca++:11.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
   78 yom now with acute blast crisis (tumor lysis syndrome).
   LEUKOCYTOSIS -- blast crisis (likely AML based on peripheral blood
   smear).  Lung infiltrates, acute renal faiure, and confusion may
   reflect leukostasis.  Spontaneous tumor lysis.  Continue eukapheresis
   for leukostasis.  Bone marrow for cytogenetic study --> determine
   chemotherapy.  Continue hydroxyurea, rasburicase.  Monitor tumor lysis
   labs.
   TUMOR LYSIS -- predominately contributing to electrolyte disturbances.
   Monitor tumor lysis lab tests.
   ACUTE RENAL FAILURE -- Acute aniuric renal failure likely attributable
   to uric acid deposition vs. tubular damage from tumor lysis.  Ca and
   Phos electrolyte derangements likely more secondary to tumor lysis
   rather than renal failure.  No indication for acute dialysis at this
   time.  No evidence of significant volume overload and no critical
   uremia.  Renal consulation team to follow.
   METABOLIC ACIDOSIS --  Anion-gap acidis, likely secondary to uric acid
   and BUN.  Will check VBG pH and give bicarb in IVF and treated
   hyperuricemia.  Holding off on allopurinol
   A-FIB -- Likely chronic AF.  Hold ASA with thrombocytopenia.  Holding
   digoxin in the setting of ARF and checking level, and hold off
   metoprolol dose.
   HTN --  Variable BP overnight.  Hold ACE in setting of ARF
   HYPOPHOSPHATEMIA -- severe.  Replete.  Monitor PO4.
   THROMBOCYTOPENIA -- attributed to acute leukemia.
   CONFUSION -- [**Month (only) 8**] be due to leukocytosis.  Consider head CT to assess
   for intracranial pathology.
   HYPERGLYCEMIA -- monitor glucose, maintain <150.
   FLUIDS -- desire net volume expansion, and maintain diuresis.
   NUTRITIONAL SUPPORT -- NPO pending evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-10**] 10:00 PM
   20 Gauge - [**2195-3-10**] 11:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussed and updated medical condition with
   wife and son.  Answered all questions.
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2195-03-12 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2195-3-11**] 01:06 PM
 DIALYSIS CATHETER - START [**2195-3-11**] 05:05 PM
   - HD line in
   - continuous bleed from HD line; tried topical thrombin; tried manual
   pressure x 10 minutes; gave ddavp, placed bolster dressing, gave 5 mg
   Vitamin K. IR sutured it shut. All told, he did bleed a lot.
   - Had 1.8 degree rise in temp with pRBC transfusion --> no transfusion
   reaction per lab. Restarted transfusion --> temp from 100-100.7. Gave
   tylenol, started Cefepime and continued transfusion
   - Renal Recs: US (tomorrow) and PTH, PTHrp
   - Calcium, Uric Acid, Creatinine (slowly) improving
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2195-3-11**] 10:12 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-11**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-12**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 77 (54 - 78) bpm
   BP: 153/68(85) {83/48(65) - 160/69(87)} mmHg
   RR: 0 (0 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
           Total In:
                                                                  6,915 mL
                                                                  2,063 mL
   PO:
           TF:
   IVF:
                                                                  6,566 mL
                                                                  2,062 mL
   Blood products:
                                                                    349 mL
                                                                      1 mL
   Total out:
                                                                  1,535 mL
                                                                    640 mL
   Urine:
                                                                  1,535 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,380 mL
                                                                  1,423 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   8.9 g/dL
   111 mg/dL
   6.3 mg/dL
   31 mEq/L
   3.2 mEq/L
   49 mg/dL
   104 mEq/L
   144 mEq/L
   23.5 %
   106.9 K/uL
        [image002.jpg]
                             [**2195-3-11**]  02:25 AM
                             [**2195-3-11**]  04:00 AM
                             [**2195-3-11**]  09:53 AM
                             [**2195-3-11**]  02:25 PM
                             [**2195-3-11**]  03:31 PM
                             [**2195-3-11**]  06:00 PM
                             [**2195-3-11**]  07:49 PM
                             [**2195-3-11**]  09:06 PM
                             [**2195-3-11**]  09:31 PM
                             [**2195-3-12**]  03:48 AM
   WBC
   128.9
   134.0
   138.0
   133.7
   87.8
   65.4
   75.8
   106.9
   Hct
   24.7
   24.7
   24.3
   22.3
   22.4
   22.0
   23.5
   Plt
   37
   33
   25
   67
   65
   36
   38
   Cr
   7.3
   7.2
   7.0
   6.6
   6.3
   Glucose
   178
   172
   225
   172
   111
   Other labs: PT / PTT / INR:17.3/35.9/1.6, CK / CKMB /
   Troponin-T://0.02, Alk Phos / T Bili:/0.4, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:256 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:709 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   78 year old male who presents with acute blast crisis.
   .
   # leukocytosis:  Given the description of the smear, likely AML blast
   crisis, monocytosis. Presentation c/w blast crisis c/b leukostasis and
   possibly spontaneous tumor lysis causing dyspnea, ARF and significant
   electrolyte abnormalities.  On [**3-11**], he was started on leukopheresis.
   His WBC continues to rise, however. He was also started on rasburicase
   with good effect.
   - plan for repeat pheresis today
   - f/u Onc recs regarding chemotherapeutic options.  At this time,
   obtaining TTE to assess cardiac fxn to see if patient will be a
   candidate for anthracycline therapy.
   - f/u bone marrow biopsy for diagnosis
   - chemotherapy this AM, continue hydroxyurea, uptitrated to 2g [**Hospital1 **] per
   BMT recs --> BMT may want WBC < 100 before chemo
   - will follow q6h tumor lysis labs, trend uric acid --> continue during
   chemotherapy
   - continue aggressive fluid support
   .
   # Acute Renal Failure:  No acute indication for emergent dialysis.
   Acute renal failure likely due to uric acid deposition vs tubular
   damage from tumor lysis.  Presenting Ca and Phos electrolyte
   derangements likely more secondary to tumor lysis than renal failure.
   The placement of his HD line was complicated by bleeding that required
   suturing. Urine output needed assistance keeping up with hydration.
   Renal U/S was unremarkable.
   - f/u renal recs
   - f/u PTH and PTHrp
   - lasix drip to facilitate mildly positive fluid balance with good UOP
   - rasburicase and HCO3 in IVF
   .
   # Thrombocytopenia: related to blast crisis and bone marrow
   insufficiency
   - transfuse for < 30
   .
   # Anemia - related to blast crisis and bone marrow insufficiency. Also,
   acute blood loss from procedure
   - transfuse for HCT < 21, unless WBC > ~ 150 as transfusion +
   leukocytosis = stasis
   .
   # Hypercalcemia - related to tumor lysis and ARF. Improving over time
   - fluids
   - lasix if euvolemic
   .
   #) Metabolic Acidosis:  Patient with an anion-gap acidosis, likely
   secondary to UA and BUN.  Will check VBG pH and give bicarb in IVF and
   treated hyperuricemia.
   - holding off on allopurinol
   .
   #) Atrial Fib:  Likely chronic AF.  Hold asa in the presence of
   thrombocytopenia.  Digoxin level normal in the setting of ARF.
   - hold off metoprolol
   - holding dig
   - holding aspirin
   .
   #) HTN:  Not well controlled here.  Unclear if this poorly controlled
   at baseline, although seems unlikely.
   - hold ace in setting of ARF, starting hydralazine as patient is
   hypertensive
   .
   #)  Access:  2 PIVs, HD line, PICC
   .
   #) Disposition: Stabilize in [**Hospital Unit Name 4**].
   .
   FEN: IVF, replete electrolytes (including phos), NPO
   Prophylaxis: SCDs
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-10**] 10:00 PM
   20 Gauge - [**2195-3-10**] 11:00 PM
   PICC Line - [**2195-3-11**] 01:06 PM
   Dialysis Catheter - [**2195-3-11**] 05:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: